US07855297B2
By the reaction and treatment in the same manner as in Example 142 using 2-ethyl-5-hydroxymethyl-4-methylthiazole (0.63 g) and 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.8 g) as starting materials, 5-benzyloxy-N-[(2-ethyl-4-methylthiazol-5-yl)methyl]-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.3 g) was obtained.

reactant | 2-ethyl-5-hydroxymethyl-4-methylthiazole | 0.63 g | C(C)C=1SC(=C(N1)C)CO | C7H11NOS
reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.8 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)NC=1C=NC(=CC1)C(C)C | C26H28N2O2
product | 5-benzyloxy-N-[(2-ethyl-4-methylthiazol-5-yl)methyl]-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.3 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C=1C=NC(=CC1)C(C)C)CC1=C(N=C(S1)CC)C | C33H37N3O2S
